US06809108B1
Synthesis of 3-(benzyloxycarbonyl)amino-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}propanamide
To a solution of 600 mg of 3-(benzyloxycarbonyl)amino-N-{((3S)-3-piperidyl)methyl}propanamide in 3 ml of methanol, a solution of 150 mg of sodium cyanoborohydride and 160 mg of zinc chloride in 8.1 ml of methanol, and 0.30 ml of cyclohexanecarbaldehyde were added at room temperature, followed by an hour's stirring at the same temperature. The reaction liquid was diluted with ethyl acetate and successively washed with saturated aqueous sodium bicarbonate solution and saturated saline, followed by drying over anhydrous sodium sulfate. Upon distilling the solvent off under reduced pressure, 775 mg of the title compound was obtained.

reactant | 3-(benzyloxycarbonyl)amino-N-{((3S)-3-piperidyl)methyl}propanamide | 600 mg | C(C1=CC=CC=C1)OC(=O)NCCC(=O)NC[C@@H]1CNCCC1 | C17H25N3O3
reactant | sodium cyanoborohydride | 150 mg | C(#N)[BH3-].[Na+]
reactant | cyclohexanecarbaldehyde | 0.30 ml | C1(CCCCC1)C=O | C7H12O
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 8.1 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | 160 mg | [Cl-].[Zn+2].[Cl-]
product | 3-(benzyloxycarbonyl)amino-N-{((3R)-1-cyclohexylmethyl-3-piperidyl)methyl}propanamide | 775 mg | C(C1=CC=CC=C1)OC(=O)NCCC(=O)NC[C@@H]1CN(CCC1)CC1CCCCC1 | C24H37N3O3
